US06423699B1
6-(3-Chloro-phenyl)-3H-benzothiazol-2-one
Prepared from 6-bromo-2-benzothiazolinone, 3-chlorophenyl boronic acid according to the procedure of example 12. A white solid: mp 195-196° C.; 1H-NMR (DMSO-d6) δ 11.95 (s, 1H), 7.96 (d, 1H, J=1.17 Hz), 7.7 (t, 1H, J=1.76 Hz) 7.62-7.59 (m, 2H), 7.46 (t, 1H, J=7.65 Hz), 7.4-7.38 (m, 1H), 7.18 (d, 1H, J=8.24 Hz); MS (EI) m/z (M+, 30%); Anal. Calc. For C13H8ClNOS.H2O: C, 57.67, H, 3.35, N, 5.17. Found: C, 57.98, H, 3.11, N, 4.98.

reactant | 6-bromo-2-benzothiazolinone | BrC1=CC2=C(NC(S2)=O)C=C1 | C7H4BrNOS
reactant | 3-chlorophenyl boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 6-(3-Chloro-phenyl)-3H-benzothiazol-2-one | ClC=1C=C(C=CC1)C1=CC2=C(NC(S2)=O)C=C1 | C13H8ClNOS
